.SUBCKT MCR100-003 anode gate cathode PARAMS:
**************************************
*    Model Generated by EVAL LAB     *
*          April 1, 2005             *
*   Copyright(c) ON Semiconductor    *
*         All Rights Reserved        *
*Commercial Use or Resale Restricted *
**************************************
*SCR
*MODEL FORMAT: PSpice
+ Vdrm=100v     Vrrm=100v     Idrm=.1u
+ Ih=.5ma       dVdt=35e6
+ Igt=40ua      Vgt=0.62v
+ Vtm=1.2v      Itm=1
+ Ton=2u        Toff=15u

* Where:
* Vdrm =>  Forward breakover voltage
* Vrrm =>  Reverse breakdown voltage
* Idrm =>  Peak blocking current
* Ih   =>  Holding current
* dVdt =>  Critical value for dV/dt triggering
* Igt  =>  Gate trigger current
* Vgt  =>  Gate trigger voltage
* Vtm  =>  On-state voltage
* Itm  =>  On-state current
* Ton  =>  Turn-on time
* Toff =>  Turn-off time

* Main conduction path
Scr      anode   anode0  control 0       Vswitch ; controlled switch
Dak1     anode0  anode2  Dakfwd  OFF             ; SCR is initially off
Dka      cathode anode0  Dkarev  OFF
VIak     anode2  cathode                         ; current sensor

* dVdt Turn-on
Emon     dvdt0   0       TABLE {v(anode,cathode)} (0 0) (2000 2000)
CdVdt    dvdt0   dvdt1   100pfd                  ; displacement current
Rdlay    dvdt1   dvdt2   1k
VdVdt    dvdt2   cathode DC 0.0
EdVdt    condvdt 0       TABLE {i(vdVdt)-100p*dVdt}  (0 0 ) (.1m 10)
RdVdt    condvdt 0       1meg

* Gate
*** 0.65 changed to 0.54 ***
Rseries  gate    gate1   {(Vgt-0.54)/Igt}
Rshunt   gate1   gate2   {0.54/Igt}
Dgkf     gate1   gate2   Dgk
VIgf     gate2   cathode                         ; current sensor

* Gate Turn-on
Egate1   gate4   0       TABLE {i(Vigf)-0.95*Igt} (0 0) (1m 10)
Rgate1   gate4   0       1meg
Egon1    congate 0       TABLE {v(gate4)*v(anode,cathode)} (0 0) (10 10)
Rgon1    congate 0       1meg

* Main Turn-on
EItot    Itot    0       TABLE {i(VIak)+5E-5*i(VIgf)/Igt} (0 0) (2000 2000)
RItot    Itot    0       1meg
Eprod    prod    0       TABLE {v(anode,cathode)*v(Itot)} (0 0) (1 1)
Rprod    prod    0       1meg
Elin     conmain 0       TABLE
+        {10*(v(prod) - (Vtm*Ih))/(Vtm*Ih)} (0 0) (2 10)
Rlin     conmain 0       1meg

* Turn-on/Turn-off control
Eonoff   contot  0       TABLE
+        {v(congate)+v(conmain)+v(condvdt)} (0 0) (10 10)

* Turn-on/Turn-off delays
Rton    contot  dlay1   825
Dton    dlay1   control Delay
Rtoff   contot  dlay2   {290*Toff/Ton}
Dtoff   control dlay2   Delay
Cton    control 0       {Ton/454}

* Reverse breakdown
Dbreak  anode   break1  Dbreak
Dbreak2 cathode break1  Dseries

* Controlled switch model
.MODEL Vswitch vswitch
+ (Ron = {(Vtm-0.7)/Itm}, Roff = {Vdrm*Vdrm/(Vtm*Ih)},
+  Von = 5.0,             Voff = 1.5)

* Diodes
.MODEL  Dgk     D       (Is=1E-16 Cjo=50pf Rs=5)
.MODEL  Dseries D       (Is=1E-14)
.MODEL  Delay   D       (Is=1E-12 Cjo=5pf  Rs=0.01)
.MODEL  Dkarev  D       (Is=1E-10 Cjo=5pf  Rs=0.01)
.MODEL  Dakfwd  D       (Is=4E-11 Cjo=5pf)
.MODEL  Dbreak  D       (Ibv=1E-7 Bv={1.1*Vrrm} Cjo=5pf Rs=0.5)

* Allow the gate to float if required
Rfloat  gate    cathode 1e10

.ENDS
